US06867333B2
18. 3-Acetoxy-11-(tetrahydro-pyran-2-yloxy)-6,10-dimethyl-5-undecen-2-one
324 mg (1.20 mmol) of a raw product of 3-acetoxy-11-hydroxy-6,10-dimethyl-5-undecen-2-one and 219 μl (202 mg, 2.40 mmol) dihydropyrane was dissolved in 8.5 ml DCM. After addition of 30 mg (0.12 mmol) pyridinium paratoluene sulfonate, the reaction mixture was stirred for 18 hrs at ambient temperature. Then, 25 ml diethylether was added, the resulting organic phase was washed once with 25 ml semiconcentrated NaCl solution, and dried over Na2SO4. After filtration and removal of the solvent in vacuo, the remaining product was purified by flash chromatography (parameters of the chromatography column: 2.0×20.0 cm, ethylacetate/petroleum ether=1:4) on silica gel.

reactant | 3-acetoxy-11-hydroxy-6,10-dimethyl-5-undecen-2-one | C(C)(=O)OC(C(C)=O)CC=C(CCCC(CO)C)C | C15H26O4
reactant | dihydropyrane | 2.40 mmol, 219 μl, 202 mg | O1CCCC=C1 | C5H8O
reactant | pyridinium paratoluene sulfonate | 0.12 mmol, 30 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | diethylether | 25 ml | C(C)OCC | C4H10O
solvent | DCM | 8.5 ml | C(Cl)Cl | CH2Cl2
product | 3-Acetoxy-11-(tetrahydro-pyran-2-yloxy)-6,10-dimethyl-5-undecen-2-one | C(C)(=O)OC(C(C)=O)CC=C(CCCC(COC1OCCCC1)C)C | C20H34O5
